US07851473B2
N-(3,4-Dimethylisoxazol-5-yl)-4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate (300 mg, 1.04 mmol), 1-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine (250 mg, 0.949 mmol) and diisopropylethylamine (0.330 ml, 1.90 mmol) in dimethylsulfoxide (3.2 ml) was stirred at 70° C. for 4 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:1) and recrystallized from a mixed solvent of hexane and ethyl acetate to give the desired product (163 mg, 42.7%) as a solid.

reactant | 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate | 1.04 mmol, 300 mg | CC1=NOC(=C1C)NC(OCC(Cl)(Cl)Cl)=O | C8H9Cl3N2O3
reactant | 1-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine | 0.949 mmol, 250 mg | FC=1C=C(C=CC1)C=1N=C(SC1)N1CCNCC1 | C13H14FN3S
reactant | diisopropylethylamine | 1.90 mmol, 0.330 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 3.2 ml | CS(=O)C | C2H6OS
product | N-(3,4-Dimethylisoxazol-5-yl)-4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxamide | 163 mg, 42.7% | CC1=NOC(=C1C)NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC(=CC=C1)F | C19H20FN5O2S
